US06897231B2
A. 5-Benzimidazol-2-yl-3-(4-fluorophenyl)-1H-indazole
To a solution of 2-nitroaniline (92 mg, 0.67 mmol) in pyridine (4 mL) was added 1-acetyl-3-(4-fluorophenyl)-1H-indazole-5-carbonyl chloride (200 mg, 0.67 mmol). The reaction was stirred at room temperature overnight when water (30 mL) was added and the solid filtered and dried in a vacuum oven (45° C.). The solid was then taken up in ethyl acetate (20 mL)/ethanol (20 mL) and a scoup of palladium on carbon added. The resulting heterogenous solution was then subjected to an atmosphere of hydrogen. After stirring overnight, the solution was filtered and concentrated to an oil under vacuo and taken up in 4 N HCl (80 mL) which was refluxed for 12 hours. The reaction was quenched with saturated NaHCO3 and the product collected as a solid. The pure product was isolated after chromatography on silica gel eluting with 7% methanol in methylene chloride. (37 mg, 17% yield). 1H NMR (DMSO-d6) δ 13.6 (br s,1H), 8.86 (s, 1H), 8.29 (d, 1H), 8.16-8.10 (m, 2H), 7.76 (d, 1H), 7.64 (dd, 2H), 7.45 (t, 2H), 7.24 (dd, 2H); ES-MS (m/z) 329 [M+1]+.

reactant | 2-nitroaniline | 0.67 mmol, 92 mg | [N+](=O)([O-])C1=C(N)C=CC=C1 | C6H6N2O2
reactant | 1-acetyl-3-(4-fluorophenyl)-1H-indazole-5-carbonyl chloride | 0.67 mmol, 200 mg | C(C)(=O)N1N=C(C2=CC(=CC=C12)C(=O)Cl)C1=CC=C(C=C1)F | C16H10ClFN2O2
reactant | water | 30 mL | O | H2O
solvent | pyridine | 4 mL | N1=CC=CC=C1 | C5H5N
product | 5-Benzimidazol-2-yl-3-(4-fluorophenyl)-1H-indazole | 17% yield | N1=C(NC2=C1C=CC=C2)C=2C=C1C(=NNC1=CC2)C2=CC=C(C=C2)F | C20H13FN4
